Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Statins-Hmg-Coa Reductase Inhibitors / msg / adhesive
 
Attending: ___.
 
Chief Complaint:
lightheadedness
 
Major Surgical or Invasive Procedure:
Cardiac catheterization
Stress sestamibi scan

 
History of Present Illness:
Mr ___ is a ___ male with diabetes, hypertension, and 
obesity who presents with approximately 30 minutes of 
lightheadedness.

He reports the event occurred today while he was seated eating 
an early lunch, having skipped breakfast. He was with his 
girlfriend, ___, when he reports he experienced a "flash", 
described as a bright white light before his eyes, followed by a 
feeling of lightheadedness/dizziness. ___ reports he 
appeared diaphoretic and pale. He put his head between his legs, 
and while he did not feel better with this, he did not feel 
worse. After 5 minutes the feeling did not dissipate, and so 
they decided to go to the ED. 

With this, he denied chest pain, SOB, nausea, vomiting, 
abdominal pain. Did have palpitations while in ED triage, but 
otherwise denied palpitaitons. No neurologic symptoms.  
 
In the ED, initial VS were 1 98.4 57 109/60 18 98%. Soon after 
he arrived to the ED, the lightheaded feeling subsided. Labs 
notable for elevated CK to 612, MB to 14 (but with MBI of 2.3), 
and troponin to 0.5. Given aspirin 325mg, EKG felt to be 
unremarkable, and cardiology was consulted who recommended two 
sets and a stress. However, the given positive troponin, patient 
was admitted rather than kept in obs for planned two sets and a 
stress. Of note, cardiology felt there was low suspicion for 
cardiac event given no chest pain/ dyspnea. Of note, d-dimer 
also negative. Also potassium was low at 3.0, received 40mg PO 
K. Transfer VS were 98.0 56 126/60 19 100% RA.

Of note, patient recently traveled up from ___ by car 
to visit his girlfriend and in the past day they have engaged in 
sexual activity several times. He denied use of Viagra.  

On arrival to the floor, patient reports he feels well, is 
hungry, and would like to leave the hospital soon. 
 
REVIEW OF SYSTEMS:  
Denies fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, shortness of breath, 
chest pain, abdominal pain, nausea, vomiting, diarrhea, 
constipation, BRBPR, melena, hematochezia, dysuria, hematuria.  
All other 10-system review negative in detail.  
 
Past Medical History:
- diabetes 
- HTN 
- erectile dysfunction
- obesity
- hypokalemia
- back surgery
 
Social History:
___
Family History:
Father: MVP s/p MVR ("childhood infection") and annuloplasty, no 
MI; thyroid and colon cancer, melanoma. Several people with 
"heart disease" on his father's side, uncertain of details.
Mother: no cardiac hx
Siblings: older brother and younger sister, healthy
Children: 4 children, all healthy
 
Physical Exam:
On admission: 
VS: 97.9 129/69 53 16 99% RA
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, pink conjunctivae, patent nares, MMM, 
good dentition, nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, obese, +BS, nontender in all quadrants, 
no rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: moving all extremities well, no cyanosis, clubbing 
or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: warm and well perfused, multiple seborrheic keratoses on 
back

On discharge:
VS- Tmax 98.7, Tcurr 98.7, BP 174/66 (113-218/62-86), HR 79 
(53-79), RR 16, SpO2 98% RA (97-100%RA), ___ 100-109
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, pink conjunctivae, patent nares, MMM, 
good dentition, nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, normal S1 and S2, II/VI systolic murmur best 
auscultated LUSB, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, obese, +BS, nontender in all quadrants, 
no rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: moving all extremities well, no cyanosis, clubbing 
or edema; R groin cath site intact, 2+ ___ pulses RLE
NEURO: CN II-XII intact  
SKIN: warm and well perfused, multiple seb-Ks on back
 
Pertinent Results:
On admission:
___ 01:50PM BLOOD WBC-6.6 RBC-4.32* Hgb-13.5* Hct-39.1* 
MCV-91 MCH-31.2 MCHC-34.4 RDW-14.0 Plt ___
___ 01:50PM BLOOD Neuts-75.1* Lymphs-15.0* Monos-7.8 
Eos-1.7 Baso-0.4
___ 01:50PM BLOOD Glucose-194* UreaN-18 Creat-1.2 Na-142 
K-3.0* Cl-102 HCO3-28 AnGap-15

___ 01:50PM BLOOD D-Dimer-<150

___ 01:50PM BLOOD CK-MB-14* MB Indx-2.3
___ 01:50PM BLOOD CK(CPK)-612*
___ 01:50PM BLOOD cTropnT-0.05*
___ 08:58PM BLOOD CK-MB-12* MB Indx-2.2 cTropnT-0.04*
___ 08:58PM BLOOD CK(CPK)-554*
___ 05:07AM BLOOD CK-MB-10 MB Indx-2.1 cTropnT-0.05*
___ 05:07AM BLOOD CK(CPK)-484*

In the interim:
___ 07:00AM BLOOD %HbA1c-5.9 eAG-123
___ 07:00AM BLOOD Triglyc-185* HDL-33 CHOL/HD-5.9 
LDLcalc-125

On discharge:
___ 07:45AM BLOOD WBC-7.3 RBC-4.84 Hgb-14.7 Hct-44.2 MCV-91 
MCH-30.5 MCHC-33.4 RDW-13.8 Plt ___
___ 07:45AM BLOOD ___ PTT-29.0 ___
___ 07:45AM BLOOD Glucose-106* UreaN-15 Creat-1.1 Na-138 
K-4.0 Cl-99 HCO3-28 AnGap-15
___ 07:45AM BLOOD Calcium-9.4 Phos-3.9 Mg-2.1

MICROBIOLOGY:
None 

IMAGING and other studies:
EKG (___):
Sinus bradycardia. Borderline P-R interval prolongation. Diffuse 
ST-T wave
changes that are non-specific. Incomplete right bundle-branch 
block. No
previous tracing available for comparison.
TRACING #1
 IntervalsAxes
___
___

CXR (___):
IMPRESSION: 
2.8 cm rounded opacity seen on the lateral view projecting over 
the posterior aspect of the cardiac silhouette, of unclear 
etiology. Suggest non-urgent chest CT for further evaluation.

Cardiac catheterization (___):
Assessment & Recommendations
1. Single vessel CAD (RCA) although fate of distal LAD not clear
2. Maximal medical therapy
3. Stress sestamibi with PCI for residual ischemia on 
medications

Cardiac stress sestamibi scan (___):
IMPRESSION:
No angina or significant ischemic changes. Appropriate 
hemodynamic
response. Nuclear report sent separately.
IMPRESSION:
There is a mild/moderate fixed defect in the inferior wall. 
Normal left
ventricular ejection fraction of 61%.

TTE (___):
The left atrial volume index is mildly increased. Left 
ventricular wall thickness, cavity size and regional/global 
systolic function are normal (LVEF >55%). Right ventricular 
chamber size and free wall motion are normal. The aortic root is 
mildly dilated at the sinus level. The aortic valve leaflets (3) 
appear structurally normal with good leaflet excursion and no 
aortic stenosis or aortic regurgitation. The mitral valve 
appears structurally normal with trivial mitral regurgitation. 
There is no mitral valve prolapse. There is mild pulmonary 
artery systolic hypertension. There is no pericardial effusion. 
IMPRESSION: Normal global and regional biventricular systolic 
function. Mild pulmonary hypertension. 
 
Brief Hospital Course:
Mr ___ is a ___ male with diabetes, hypertension, and 
obesity who presents with approximately 30 minutes of 
lightheadedness.

ACTIVE ISSUES:
# Lightheadedness: The patient's initial description sounded 
most consistent with vaso-vagal episode or pre-syncope. PE was 
ruled out with a negative D-dimer. Initial troponin was elevated 
at 0.04, and continued to remain elevated. EKG demonstrated 
bradycardia with an incomplete right bundle branch block, 
although no comparisons were available from prior. Patient had 
no neurologic deficits, no reason to be dehydrated, and no other 
associated symptoms during the episode (chest pain, shortness of 
breath, etc.) The patient was monitored on telemetry, and 
cardiology was consulted due to the persistently elevated 
troponins (0.04-0.05). It was highly suspicious that this was a 
primary cardiac event, so the patient went for a cardiac 
catheterization, which demonstrated 50-70% stenosis of the RCA. 
His home Amlodipine and Hydrochlorothiazide were discontinued, 
and he was started on Captopril 12.5 mg BID (transitioned to 
Lisinopril on discharge) and Rosuvastatin 40 mg PO qPM. He was 
also risk stratified with a HgbA1c and fasting lipids, which all 
returned within normal limits. Post-catheterization, he had a 
cardiac stress sestamibi scan, which demonstrated no angina or 
ischemic changes, appropriate hemodynamic response, a 
mild-moderate fixed defect in the inferior wall, and a normal 
left ventricular ejection fraction of 61%. No intervention was 
deemed necessary.

Of note, a systolic murmur was noted on exam, so the patient 
also received a TTE in house, which was grossly normal, and 
showed mild pulmonary hypertension (see Pertinent Results). The 
patient was encouraged to follow-up with his cardiologist and 
his PCP very closely. 

# Elevated CK: Patient reported both recent prolonged immobility 
(drove > 1000 miles in past 3 days) as well as increased 
physical and sexual activity in the 24 hours prior to admission, 
which would have contributed. CK was downtrending 612->554->484 
when cycled. This demonstrated a mild elevation, but not enough 
to even remotely raise concern for kidney injury.

# CXR abnormality: A 2.8 cm rounded opacity seen on the lateral 
view projecting over the posterior aspect of the cardiac 
silhouette, of unclear etiology. Patient will likely need chest 
CT follow-up as an outpatient for further characterization. 

# Hypertension: Patient's home Amlodipine and 
Hydrochlorothiazide were discontinued, and he was started on 
Captopril, transitioned to Lisinopril on discharge. 

# Diabetes mellitus: Patient received an insulin sliding-scale 
while in-house, and was continued on his home linagliptin at the 
time of discharge. HgbA1C in-house returned normal at 5.9%, and 
the patient should have a discussion with his PCP about the 
continuation of linagliptin, if his blood sugars at home remain 
within normal limits.

# Hypokalemia: Patient does take potassium at home. He was 
unsure of the etiology of his hypokalemia, but he was on HCTZ, a 
potassium-wasting diuretic. His potassium was monitored in-house 
and repleted to 4.0 daily. 

INACTIVE ISSUES:
# Anemia: Patient has a chronic anemia, with unknown baseline 
hemoglobin and hematocrit. It was recommended to have close 
outpatient follow-up with age-appropriate cancer screening. 

TRANSITIONAL ISSUES:
- Patient has been counseled on his diet (low-sodium). He has a 
good support system in place. 
- Patient should follow-up with his primary care provider ___ 
1 week, and should also see a cardiologist as soon as possible. 
He should also have age-appropriate cancer screening.
- He was started on Aspirin 81mg, Rosuvastatin 40mg and 
Lisinopril 7.5mg to optimize heart health; this should be 
titrated as an outpatient as needed
- He requested being prescribed a glucometer to track sugars at 
home; prescribed supplies, instructed patient to check fasting 
sugars - given HgbA1c of 5.9%, patient may actually no longer 
need to be on diabetes medications.
- On CXR: A 2.8 cm rounded opacity seen on the lateral view 
projecting over the posterior aspect of the cardiac silhouette, 
of unclear etiology. Patient will likely need chest CT follow-up 
as an outpatient for further characterization. 
- Pending studies at the time of discharge: None
- Code Status: FULL CODE.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Hydrochlorothiazide 25 mg PO DAILY 
2. Amlodipine Dose is Unknown  PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Tradjenta (linagliptin) unknown  oral daily 
5. Potassium Chloride Dose is Unknown  PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Rosuvastatin Calcium 40 mg PO QPM 
RX *rosuvastatin [Crestor] 40 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0
3. Lisinopril 7.5 mg PO DAILY 
RX *lisinopril 5 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0
RX *lisinopril 2.5 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0
4. FreeStyle Lancets (lancets) 28 gauge miscellaneous daily 
RX *lancets 28 gauge use lancet with glucometer to check blood 
glucose daily Disp #*1 Packet Refills:*0
5. FreeStyle Freedom Lite (blood-glucose meter)    miscellaneous 
once 
RX *blood-glucose meter  use monitor to check fasting blood 
glucose daily Disp #*1 Kit Refills:*0
6. FreeStyle Lite Strips (blood sugar diagnostic)    
miscellaneous daily 
RX *blood sugar diagnostic [Blood Glucose Test]  use strip with 
glucometer to measure blood sugar daily Disp #*1 Packet 
Refills:*0
7. Tradjenta (linagliptin) 5 mg ORAL DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Cardiac ischemia

Secondary:
Diabetes mellitus
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure being a part of your care during your 
admission to ___. You were 
admitted for an episode of lightheadedness. When you came to the 
emergency room, you had an EKG and were also found to have 
elevated cardiac enzymes. The cardiologists saw you and 
recommended that you have a cardiac catheterization. This showed 
that you have a 50-70% narrowing of your right coronary artery, 
which is one of the blood vessels that supplies the heart. You 
also had a stress test which showed a mild/moderate defect in 
that area of the heart that was fixed, and did not get any worse 
with the medications that was used to "stress" your heart. 
Therefore, no further intervention was needed at this time. 
Finally, you were found to have a heart murmur on examination, 
so you had an echocardiogram of your heart, which was normal.

You were started on several new medications to prevent further 
progression of your coronary artery disease. Eating well, 
exercising and controlling your diabetes will be key to reducing 
your future risk of heart attack. 

You requested a glucometer to test your sugars. We prescribed 
you a glucometer, lancets and test strips. You can measure your 
fasting sugars, which should be 70-130 and your post-prandial 
sugars (2 hours after meal) should be <180. If your sugars are 
consistently within these ranges, you should report them to your 
doctor, as you may no longer need a diabetes medication.
 
Followup Instructions:
___